US07294716B2
2-(4-(4-methoxy-2-nitrophenylaminosulfonyl)phenoxy)acetamide (Intermediate A92)
Solid 2-[4-(chlorosulfonyl)phenoxy]acetamide (Intermediate A91, 65.87 g, 0.264 mol) was added to a solution of 4-methoxy-2-nitroaniline (27.72 g, 0.165 mol) in pyridine (500 mL) at room temperature under argon. The resulting mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. To the residue was added 0.5 M hydrochloric acid (1000 mL) and stirred for 30 min. The orange solid was collected and recrystallized from acetone to give 42.8 g (68%) of the title compound, nitro sulfonamide as yellow crystals.

reactant | 2-[4-(chlorosulfonyl)phenoxy]acetamide | 0.264 mol, 65.87 g | ClS(=O)(=O)C1=CC=C(OCC(=O)N)C=C1 | C8H8ClNO4S
reactant | 4-methoxy-2-nitroaniline | 0.165 mol, 27.72 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(4-methoxy-2-nitrophenylaminosulfonyl)phenoxy)acetamide | 42.8 g, 68% | COC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(OCC(=O)N)C=C1)[N+](=O)[O-] | C15H15N3O7S
